US07767691B2
Preparation of 4-[hydroxy(diphenyl)methyl]-1-[3-(phenyloxy)propyl]-1-azoniabicyclo[2.2.1]heptane bromide
Following the general procedure outlined in Example 2, 1-azabicyclo[2.2.1]hept-4-yl(diphenyl)methanol (31.5 mg, 0.113 mmol) and 4-bromophenyl 3-bromopropyl ether (46.1 mg, 0.157 mmol) in 2 CH3CN/3 CHCl3 (2.5 mL) were reacted to give the desired product (35.7 mg, 55%). EI-MS m/z 492 (M+) Rt (1.94 min).

reactant | 1-azabicyclo[2.2.1]hept-4-yl(diphenyl)methanol | 0.113 mmol, 31.5 mg | N12CCC(CC1)(C2)C(O)(C2=CC=CC=C2)C2=CC=CC=C2 | C19H21NO
reactant | 4-bromophenyl 3-bromopropyl ether | 0.157 mmol, 46.1 mg | BrCCCOC1=CC=C(C=C1)Br | C9H10Br2O
solvent | CH3CN | 2.5 mL | CC#N | C2H3N
product | 4-[hydroxy(diphenyl)methyl]-1-[3-(phenyloxy)propyl]-1-azoniabicyclo[2.2.1]heptane bromide | 35.7 mg, 55% | [Br-].OC(C12CC[N+](CC1)(C2)CCCOC2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | InChI=1S/C28H32NO2.BrH/c30-28(24-11-4-1-5-12-24,25-13-6-2-7-14-25)27-17-20-29(23-27,21-18-27)19-10-22-31-26-15-8-3-9-16-26;/h1-9,11-16,30H,10,17-23H2;1H/q+1;/p-1
